US08080566B1
A 250-mL round-bottom flask was charged with a solution of (E)-benzyl 3-(3-(dimethylamino)acryloyl)piperidine-1-carboxylate (19 g, 54.05 mmol, 1.00 equiv, 90%) in ethanol (100 mL). To this was added conc.HCl (3 mL, 36%) drop wise and allowed to stir for 10 minutes. Then, to the resulting mixture was added NH2NH2.H2O (60 mL, 80%) and refluxed overnight. The progress was monitored by TLC (EtOAc:PE=1:1). Upon completion, the resulting mixture was concentrated on a rotary evaporator and diluted with H2O (200 mL). The mixture was extracted with ethyl acetate (3×200 mL). Combined organic layers were dried over anhydrous magnesium sulfate, filtered off and concentrated on a rotary evaporator affording a residue that was purified by a silica gel column chromatography eluted with ethyl acetate/petroleum ether (2:3) to give benzyl 3-(1H-pyrazol-5-yl)piperidine-1-carboxylate as colorless oil (13 g, 80%).

reactant | (E)-benzyl 3-(3-(dimethylamino)acryloyl)piperidine-1-carboxylate | 54.05 mmol, 19 g, 1.00 equiv | CN(/C=C/C(=O)C1CN(CCC1)C(=O)OCC1=CC=CC=C1)C | C18H24N2O3
reactant | HCl | 3 mL | Cl | ClH
reactant | NH2NH2.H2O | 60 mL | NN.O
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | benzyl 3-(1H-pyrazol-5-yl)piperidine-1-carboxylate | 13 g, 80% | N1N=CC=C1C1CN(CCC1)C(=O)OCC1=CC=CC=C1 | C16H19N3O2
